* NMOS Common-Source Amplifier
* Specs: Av >= 20dB, BW >= 100kHz, VDD=5V, RL=10k, CL=10pF
*
* Hand calculation:
*   ID ≈ 0.15mA, RD = 20k, W/L = 20
*   gm ≈ 0.77mS, ro ≈ 333k
*   Av ≈ -gm·(RD||ro||RL) ≈ -0.77m·(20k||333k||10k) ≈ -5.5
*   → Need larger gm. Target gm > 2mS ⇒ ID > 1mA.
*   Revised: ID = 1mA, RD = 2.5k, W/L = 50
*   gm = sqrt(2·KP·W/L·ID) = sqrt(2·200u·50·1m) = sqrt(20m) = 4.47mS
*   ro = 1/(LAMBDA·ID) = 1/(0.02·1m) = 50k
*   Av = -gm·(RD||ro||RL) = -4.47m·(2.5k||50k||10k) = -4.47m·1.82k = -8.1
*   → Still short. Bump RD to 5k:
*   Av = -4.47m·(5k||50k||10k) = -4.47m·3.03k = -13.6
*   → ID=1mA, RD=5k, VDS = 5-5=0 → cutoff!
*   → Need lower ID or accept lower gain. Let's just simulate and iterate.

VDD vdd 0 DC 5V
Vin in 0 AC 1 SIN(0 10m 10k)

* Bias network: VG ≈ 1.2V (for VGS ≈ 0.9V at ID≈0.5mA)
R1 vdd gate 380k
R2 gate 0 120k

* Amplifier stage
M1 drain gate 0 0 NMOS1 W=50u L=1u
RD vdd drain 5k

* Output coupling + load
Cout drain out 1u
RL out 0 10k
CL out 0 10p

* Input coupling
Cin in gate 0.1u

* NMOS model (Level-1)
.MODEL NMOS1 NMOS (VTO=0.7 KP=200u GAMMA=0.5 LAMBDA=0.02
+                     PHI=0.8 TOX=40n CGSO=0.3n CGDO=0.3n)

* Analyses
.op
.ac dec 100 1 100Meg
.tran 0.01u 500u

* Measurements
.meas AC gain_max MAX V(out)
.meas AC bw TRIG V(out)=gain_max/sqrt(2) RISE=1
.meas TRAN vout_pp PP V(out)

.end
